US05519156
The general procedure of Example 4 was repeated using 4-trifluoromethoxybenzyltriphenylphosphonium bromide and 4-(4-phenyl-4-n-pentyl-4-silacyclohexyl)cyclohexane carbaldehyde, thereby obtaining trans-4-(trans-4-(2-(4-trifiuoromethoxyphenyl)ethyl)cyclohexyl)-1-n-pentyl-1-silacyclohexane with the following results of IR and 13C-NMR analyses.

reactant | 4-trifluoromethoxybenzyltriphenylphosphonium bromide | [Br-].FC(OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)(F)F
reactant | 4-(4-phenyl-4-n-pentyl-4-silacyclohexyl)cyclohexane carbaldehyde | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1CCC(CC1)C=O)CCCCC | C23H36OSi
product | trans-4-(trans-4-(2-(4-trifiuoromethoxyphenyl)ethyl)cyclohexyl)-1-n-pentyl-1-silacyclohexane | FC(OC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCCC)(F)F | C25H39F3OSi
